US06656952B2
3-(S)-Azido-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]-2-pyrrolidone
Triethylamine (3.07 ml, 22.02 mmol) was added to a methylene chloride (40 ml) solution of 4-(S)-fluoromethyl-3-(R)-hydroxy-N-[1-(R)-phenylethyl]-2-pyrrolidone (2.61 g, 11.00 mmol), methanesulfonyl chloride (1.28 ml, 16.54 mmol) was added dropwise to the thus prepared solution at −10° C. and then the resulting mixture was stirred for 30 minutes at the same temperature. The reaction solution was washed with 10% citric acid aqueous solution and dried over sodium sulfate and then the solvent was evaporated. The thus obtained residue was dissolved in N,N-dimethylformamide (80 ml), mixed with sodium azide (2.86 g, 44.00 mmol) and then stirred overnight at 100° C. The reaction solution was mixed with water, extracted with ethyl acetate (200 ml×3) and then the resulting organic layers were combined and dried over sodium sulfate, subsequently evaporating the solvent. The thus obtained residue was subjected to a silica gel chromatography to give 1.81 g (63%) of the title compound from the eluate of ethyl acetate:hexane=1:3 in the form of a light yellow oil.

reactant | Triethylamine | 22.02 mmol, 3.07 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(S)-fluoromethyl-3-(R)-hydroxy-N-[1-(R)-phenylethyl]-2-pyrrolidone | 11.00 mmol, 2.61 g | FC[C@@H]1[C@H](C(N(C1)[C@H](C)C1=CC=CC=C1)=O)O | C13H16FNO2
reactant | methanesulfonyl chloride | 16.54 mmol, 1.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 44.00 mmol, 2.86 g | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(S)-Azido-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]-2-pyrrolidone | 1.81 g, 63% | N(=[N+]=[N-])[C@@H]1C(N(C[C@@H]1CF)[C@H](C)C1=CC=CC=C1)=O | C13H15FN4O
